US04432986
A mixture of 18.8 g. (0.1 mole) of 3-hydroxy-2-naphthoic acid, 20 ml. of methyl iodide, 28 g. of potassium carbonate, and 200 ml. of N,N-dimethylformamide was heated at 70° C. for 16 hours, then poured into 1 liter of water. The mixture was extracted with diethyl ether and the extracts were washed with water, then 5 percent sodium hydroxide solution, then water again, and dried over magnesium sulfate. Evaporation provided a residue of methyl 3-methoxy-2-naphthoate.

reactant | 3-hydroxy-2-naphthoic acid | 0.1 mole | OC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H8O3
reactant | methyl iodide | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 1 liter | O | H2O
product | methyl 3-methoxy-2-naphthoate | COC=1C(=CC2=CC=CC=C2C1)C(=O)OC | C13H12O3
